US07576086B2
A mixture of N-benzylpiperazine dihydrochloride (2 g, 9.4 mmol), 2-bromo-1-(5-chloro-6-methoxynaphthalen-1-yl) ethanone (3.54 g, 11.3 mmol) and K2CO3 (4.55 g, 33 mmol) in acetone (120 ml) was treated according to the general preparation 2 to obtain N1-benzyl-N4-(5-chloro-6-methoxy-2-naphthoylmethyl) piperazine dihydro-chloride (2.85 g). The above product (2.6 g, 30 mmol) was reduced with NaBH4 (2.22 g, 60 mmol) in methanol (150 ml) according to the general preparation 3 to obtain 10.2 g of the title compound as white solid.

reactant | N-benzylpiperazine dihydrochloride | 9.4 mmol, 2 g | Cl.Cl.C(C1=CC=CC=C1)N1CCNCC1
reactant | 2-bromo-1-(5-chloro-6-methoxynaphthalen-1-yl) ethanone | 11.3 mmol, 3.54 g | BrCC(=O)C1=CC=CC2=C(C(=CC=C12)OC)Cl | C13H10BrClO2
reactant | K2CO3 | 33 mmol, 4.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 120 ml | CC(=O)C | C3H6O
product | N1-benzyl-N4-(5-chloro-6-methoxy-2-naphthoylmethyl) piperazine dihydro-chloride | 2.85 g | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC | InChI=1S/C24H25ClN2O2.2ClH/c1-29-23-10-8-19-15-20(7-9-21(19)24(23)25)22(28)17-27-13-11-26(12-14-27)16-18-5-3-2-4-6-18;;/h2-10,15H,11-14,16-17H2,1H3;2*1H
